US07632838B2
To a stirred solution of (R)-1-(4-fluoro-2-(trifluoromethyl)phenyl)-3-methylpiperazine (5.34 g, 21.86 mmol) in anhydrous dichloromethane (20 mL) was added diisopropylethylamine (10.3 mL, 59.1 mmol) at 0° C. The reaction mixture was stirred at room temperature for 15 minutes then 3-Methoxy benzene sulfonyl chloride (2.44 g, 11.82 mmol) dissolved in dichloromethane (10 mL) was introduced dropwise. The cooling bath was removed and the mixture was stirred at room temperature for 0.5 hour. Reaction was complete as determined by TLC. The reaction mixture was diluted with dichloromethane washed with saturated NaHCO3 (aqueous), dried over MgSO4 and concentrated. The crude product was purified via flash column chromatography to yield (R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-1-(3-methoxyphenylsulfonyl)-2-methylpiperazine in quantitative yield (5.10 g) as a white solid.

reactant | (R)-1-(4-fluoro-2-(trifluoromethyl)phenyl)-3-methylpiperazine | 21.86 mmol, 5.34 g | FC1=CC(=C(C=C1)N1C[C@H](NCC1)C)C(F)(F)F | C12H14F4N2
reactant | diisopropylethylamine | 59.1 mmol, 10.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-Methoxy benzene sulfonyl chloride | 11.82 mmol, 2.44 g | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-1-(3-methoxyphenylsulfonyl)-2-methylpiperazine | quantitative yield | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC(=CC=C1)OC)C)C(F)(F)F | C19H20F4N2O3S
